US07544697B2
Potassium acetate (49.1 g, 0.500 mol) was added with stirring to a solution of ethyl 6-methyl-2,4-dioxoheptanoate, sodium salt (44.4 g, 0.200 mol), prepared as described in Part A of Examples 1-4, in acetic acid (280 mL). The solution was cooled to 10° C., and benzylhydrazine dihydrochloride (39.0 g, 0.200 mol) was added in portions over a period often minutes while the reaction temperature was maintained between 10° C. and 13.5° C. The reaction was stirred for 90 minutes at between 6° C. and 13.6° C., allowed to warm to ambient temperature, stirred overnight, and concentrated under reduced pressure. The residue was partitioned between 2 M aqueous sodium carbonate (900 mL) and tert-butyl methyl ether (600 mL). The aqueous layer was extracted with tert-butyl methyl ether (2×300 mL), and the combined organic fractions were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 56.6 g of ethyl 1-benzyl-5-(2-methylpropyl)-1H-pyrazole-3-carboxylate as an oil orange. The product contained 10 mol % of ethyl 2-benzyl-5-(2-methylpropyl)-2H-pyrazole-3-carboxylate.

reactant | Potassium acetate | 0.500 mol, 49.1 g | C(C)(=O)[O-].[K+]
reactant | ethyl 6-methyl-2,4-dioxoheptanoate | CC(CC(CC(C(=O)OCC)=O)=O)C | C10H16O4
reactant | sodium | 0.200 mol, 44.4 g | [Na] | Na
reactant | benzylhydrazine dihydrochloride | 0.200 mol, 39.0 g | Cl.Cl.C(C1=CC=CC=C1)NN
solvent | acetic acid | 280 mL | C(C)(=O)O | C2H4O2
product | ethyl 1-benzyl-5-(2-methylpropyl)-1H-pyrazole-3-carboxylate | 56.6 g | C(C1=CC=CC=C1)N1N=C(C=C1CC(C)C)C(=O)OCC | C17H22N2O2
